US09216967B2
2-{[3-(1-methylethyl)phenyl]oxy}-5-nitropyridine
In a 30 mL large microwave vial, 2-chloro-5-nitropyridine (1.041 g, 6.57 mmol, 1 equiv) was dissolved in 5.5 mL of dimethylformamide. 3-(1-methylethyl)phenol (0.90 mL, 6.57 mmol, 1 equiv) and potassium carbonate (4.54 g, 32.8 mmol, 5 equiv) were added. The reaction mixture was heated under microwave irradiation for 1 hour at 110° C. (Biotage Initiator). The reaction mixture was filtered. The filtrated solid was washed with dichloromethane (30 mL). The volatiles were evaporated under vacuum. The crude compound was dissolved in dichloromethane (20 mL) and brine was added (20 mL). The compound was extracted 2 times with dichloromethane (2×20 mL) and 2 times with ethyl acetate (2×20 mL). The organic phase was dried over sodium sulphate. Evaporation afforded the title compound (1.402 g).

reactant | 2-chloro-5-nitropyridine | 6.57 mmol, 1.041 g, 1 equiv | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 3-(1-methylethyl)phenol | 6.57 mmol, 0.90 mL, 1 equiv | CC(C)C=1C=C(C=CC1)O | C9H12O
reactant | potassium carbonate | 32.8 mmol, 4.54 g, 5 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5.5 mL | CN(C=O)C | C3H7NO
product | 2-{[3-(1-methylethyl)phenyl]oxy}-5-nitropyridine | 1.402 g | CC(C)C=1C=C(C=CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C14H14N2O3
